US07994185B2
2,5-Difluoro-N-{2-fluoro-5-[5-{2-[(2-methyl propyl)amino]-4-pyrimidinyl}-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide
Following a procedure analogous to the procedure described in Example 18, Step B using N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (120 mg, 0.212 mmol) and isobutylamine (1.1 mL, 11 mmol) the title compound was obtained as a light orange solid (94 mg, 0.16 mmol, 74% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.81 (br. s., 1H), 7.83-8.30 (m, 1H), 7.43-7.71 (m, 3H), 7.30-7.43 (m, 3H), 7.15-7.30 (m, 1H), 5.97-6.36 (m, 1H), 3.73-4.07 (m, 2H), 3.47 (t, J=11.0 Hz, 2H), 3.20-3.31 (m, 1H), 2.94-3.16 (m, 2H), 1.93-2.08 (m, 2H), 1.61-1.89 (m, 3H), 0.75-0.93 (m, 6H). MS (ESI): 604.19 [M+H]+.

reactant | N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.212 mmol, 120 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCOCC1)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C24H18ClF3N4O3S2
reactant | isobutylamine | 11 mmol, 1.1 mL | C(C(C)C)N | C4H11N
product | 2,5-Difluoro-N-{2-fluoro-5-[5-{2-[(2-methyl propyl)amino]-4-pyrimidinyl}-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide | FC1=C(C=C(C=C1)F)S(=O)(=O)NC1=C(C=CC(=C1)C=1N=C(SC1C1=NC(=NC=C1)NCC(C)C)C1CCOCC1)F | C28H28F3N5O3S2
